US06790844B2
(17-4) 3-[(1,3-Dioxolan-2-yl)phenyl]-1-(4-ethylpiperazin-1-yl)isoquinoline
3-Chloro-1-(4-ethylpiperazin-1-yl)isoquinoline (3.5 g) and 4-(1,3,2-dioxaborynan-2-yl)-1-(1,3-dioxolan-2-yl) benzene (5.0 g) were reacted in dimethylformamide (50 ml), in the presence of cesium carbonate (7.3 g) and tetrakistriphenylphosphinepalladium (0.3 g) at 80° C. in a nitrogen stream for 12 hr. The reaction solution was evaporated, and then partitioned between ethyl acetate and water. The resulting organic layer was washed with water, dried and evaporated. The resulting residue was purified by silica gel column chromatography (methylene chloride/methanol system), to give 4.66 g of the title compound as a pale yellow oil.

reactant | 3-Chloro-1-(4-ethylpiperazin-1-yl)isoquinoline | 3.5 g | ClC=1N=C(C2=CC=CC=C2C1)N1CCN(CC1)CC | C15H18ClN3
reactant | cesium carbonate | 7.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | tetrakistriphenylphosphinepalladium | 0.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[(1,3-Dioxolan-2-yl)phenyl]-1-(4-ethylpiperazin-1-yl)isoquinoline | 4.66 g | O1C(OCC1)C1=C(C=CC=C1)C=1N=C(C2=CC=CC=C2C1)N1CCN(CC1)CC | C24H27N3O2
